US04182757
3 g 1-(2-chloroethyl)-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea are dissolved in 10 ml of acetic acid, and 1.5 g of sodium nitrite are added thereto under stirring. The mixture is stirred at the same temperature for 4 hours. After the reaction, the mixture is treated in the same manner as described in Example 62-(2). 1.7 g of 1-(2-chloroethyl)-1-nitroso-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea are thereby obtained as a yellow oil.

reactant | 1-(2-chloroethyl)-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea | 3 g | ClCCNC(=O)N(CC(CO)O)CCC | C9H19ClN2O3
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(2-chloroethyl)-1-nitroso-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea | 1.7 g | ClCCN(C(=O)N(CC(CO)O)CCC)N=O | C9H18ClN3O4
